US05846515
Compound (19) is prepared by a method analogous to the one described by Shinkai et al. (1990, supra). Compound (3) is converted to the sodium salt with excess sodium hydride in a solvent such as tetrahydrofuran or dimethylformamide and then reacted 1-bromo-3-(perfluoro-tert-butyl)propane to furnish Compound (19) which is purified by crystallization or chromatography. 1-bromo-3-(perfluoro-tert-butyl)propane is prepared by reacting perfluoroisobutylene and cesium fluoride in a solvent like monoglyme with excess dibromopropane as described by Rogers et al. (1993, U.S. Pat. No. 5,234,680).

reactant | perfluoroisobutylene | FC(C(C(F)(F)F)=C(F)F)(F)F | C4F8
reactant | cesium fluoride | [F-].[Cs+]
reactant | dibromopropane | BrC(C)(C)Br | C3H6Br2
reactant | monoglyme | C(OC)COC | C4H10O2
product | 1-bromo-3-(perfluoro-tert-butyl)propane | BrCCCC(C(F)(F)F)(C(F)(F)F)C(F)(F)F | C7H6BrF9
